* Comprehensive 30 GHz LNA RF Testbench (IHP SG13G2)
.lib "../../../../junk/vco/IHP-Open-PDK-0.3.0/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ

* Basic Common Emitter LNA Core
.subckt lna_core in out vdd vss
    * IHP SG13G2 NPN HBT
    X1 c b e vss npn13G2l m=1
    
    * Bias Network
    R_bias vdd b 20k
    
    * Input Matching
    C_in in b 200f
    L_in in vss 200p
    
    * Emitter Degeneration
    L_e e vss 50pH
    
    * Load matching
    L_load vdd c 150pH
    C_out c out 150f
.ends

* Supply
V_vdd vdd 0 1.2
V_vss vss 0 0

* Input and Output Ports (50 Ohms)
V1 in 0 dc 0 ac 1 portnum=1 z0=50
V2 out 0 dc 0 ac 0 portnum=2 z0=50

* Instantiate LNA
X_lna in out vdd vss lna_core

.control
    * 1. DC Power
    op
    let dc_power = -v(vdd) * v_vdd#branch
    print dc_power
    
    * 2. S-Parameters
    sp dec 50 20G 40G 0
    setplot sp1
    print S_1_1 S_2_1 S_1_2 S_2_2
    wrdata s_params.txt S_1_1 S_2_1 S_1_2 S_2_2
    
    * 3. Noise Figure
    noise v(out) V1 dec 10 20G 40G 1
    setplot noise1
    let nf_db = 10 * log10(inoise_spectrum^2 / 8e-19)
    print nf_db
    wrdata nf_results.txt nf_db
    
    quit
.endc
.end
