* 30 GHz Gilbert Cell Mixer — IHP SG13G2
* Double-balanced mixer using npn13G2l HBTs
*
* Architecture:
*   - RF input: differential pair Q1-Q2 (bottom tier)
*   - LO input: switching pair Q3-Q4-Q5 (top tier)
*   - IF output: taken from collectors of Q3/Q4
*   - Current source: tail current for RF pair
*
* Ports:
*   RF_p, RF_n  : differential RF input (from LNA)
*   LO_p, LO_n  : differential LO input (from VCO)
*   IF_p, IF_n  : differential IF output (to ADC)
*   VDD, VSS    : supply

.subckt mixer_gilbert RF_p RF_n LO_p LO_n IF_p IF_n VDD VSS

    * RF Input Differential Pair (Bottom Tier)
    E1 RF_p 0 1 0 1
    Q1 c1 b_e1 e_tail VSS npn13G2l m=1
    Q2 c2 b_e2 e_tail VSS npn13G2l m=1
    
    * Base-emitter capacitance for RF input
    C_be1 RF_p b_e1 50f
    C_be2 RF_n b_e2 50f
    
    * RF bias
    R_bias_rf VDD RF_p 10k
    R_bias_rf2 VDD RF_n 10k
    
    * LO Switching Quad (Top Tier)
    Q3 c3 b_lo_p e1 VSS npn13G2l m=1
    Q4 c4 b_lo_p e2 VSS npn13G2l m=1
    Q5 c3 b_lo_n e2 VSS npn13G2l m=1
    Q6 c4 b_lo_n e1 VSS npn13G2l m=1
    
    * LO coupling capacitors
    C_lo1 LO_p b_lo_p 100f
    C_lo2 LO_n b_lo_n 100f
    
    * Load resistors (IF output)
    R_load_p VDD IF_p 200
    R_load_n VDD IF_n 200
    
    * Connect switching outputs to loads
    V_if_p IF_p c3 0
    V_if_n IF_n c4 0
    
    * Tail current source (2 mA)
    I_tail e_tail VSS 2m
    
    * Bypass capacitor
    C_bypass e_tail VSS 5p

.ends mixer_gilbert


* =============================================================================
* Simplified Mixer Testbench (for initial validation)
* =============================================================================
* This is a subcircuit definition only — see mixer_tb.cir for testbench
