* 30 GHz LNA with Input Matching — IHP SG13G2
* 
* Based on cascode + inductive degeneration topology
* from SilicoWeave-mmWave-IP reference (same PDK)
*
* Architecture:
*   - Common-emitter (Q1) + Common-base (Q2) cascode
*   - Inductive degeneration (L_e) for NF-optimal input match
*   - Series-shunt LC matching for S11 < -10 dB
*   - Output resonant load at 30 GHz
*
* Specs (from walkthrough):
*   S21 = 4.95 dB, NF = 3.84 dB, P1dB = -10 dBm
*   Target: S11 < -10 dB (with proper matching)

.subckt lna_30ghz_matched IN OUT VDD VSS

    * ================================================================
    * INPUT MATCHING NETWORK (for S11 < -10 dB at 30 GHz)
    * ================================================================
    * Series inductor for impedance transformation
    L_series IN match_node 180p
    
    * Shunt capacitor to ground (matching)
    C_shunt match_node VSS 40f
    
    * DC blocking capacitor
    C_block match_node base_in 200f
    
    * Gate/base bias feed
    R_bias VDD base_in 15k
    
    * ================================================================
    * CASCODE AMPLIFIER CORE
    * ================================================================
    * CE stage (Q1) with inductive degeneration
    Q1 coll base_in emit VSS npn13G2l m=1
    
    * Inductive degeneration (key for NF + S11)
    L_deg emit VSS 60p
    
    * CB stage (Q2) — cascode for isolation
    Q2 out_int coll VSS npn13G2l m=1
    
    * CB base bias (AC ground)
    C_bypass cb_bias VSS 2p
    R_cb VDD cb_bias 10k
    L_bond cb_bias coll 100p
    
    * ================================================================
    * OUTPUT MATCHING + LOAD
    * ================================================================
    * Resonant load at 30 GHz
    L_load VDD out_int 120p
    C_res out_int VSS 35f
    
    * Output coupling
    C_out out_int OUT 120f
    
    * Output shunt match
    L_shunt OUT VSS 80p

.ends lna_30ghz_matched


* =============================================================================
* LNA Testbench with S-parameter simulation
* =============================================================================
.lib "../vco/netlist/parameters.inc"

* Supplies
V_vdd vdd 0 1.2
V_vss vss 0 0

* Input port (50 Ohm)
V1 in 0 dc 0 ac 1 portnum=1 z0=50

* Output port (50 Ohm)  
V2 out 0 dc 0 ac 0 portnum=2 z0=50

* Instantiate LNA
X_lna in out vdd vss lna_30ghz_matched

.control
    * DC operating point
    op
    let dc_power = -v(vdd) * v_vdd#branch
    print dc_power
    
    * S-parameters (20-40 GHz)
    sp dec 100 20G 40G 0
    print S_1_1 S_2_1 S_1_2 S_2_2
    wrdata lna_s11_matched.txt S_1_1
    wrdata lna_s21_matched.txt S_2_1
    
    * Noise Figure
    noise v(out) V1 dec 50 20G 40G 1
    let nf = 10 * log10(inoise_spectrum^2 / 8.34e-19)
    print nf
    wrdata lna_nf_matched.txt nf
    
    quit
.endc
.end
