* 30 GHz Radar Analog Front-End — Top-Level Testbench
* Chain: VCO → PA → (Antenna/Channel) → LNA → Mixer → IF → ADC
*
* This testbench validates the complete RF signal path
* before digital DSP processing.

.lib "../vco/netlist/parameters.inc"

* =============================================================================
* SUPPLIES
* =============================================================================
V_vdd_1p2 vdd_1p2 0 1.2
V_vdd_2p5 vdd_2p5 0 2.5
V_vss vss 0 0

* =============================================================================
* VCO (30 GHz LO)
* =============================================================================
* VCO outputs: lo_p, lo_n (differential 30 GHz)
X_vco lo_p lo_n vdd_1p2 vss vco_30ghz_core

.subckt vco_30ghz_core out_p out_n vdd vss
    * Simplified VCO model: 30 GHz sinusoidal source
    * In full simulation, this is replaced by the transistor-level netlist
    V_osc_p out_p vss dc 0 sin(0 0.5 30G 0 0)
    V_osc_n out_n vss dc 0 sin(0 -0.5 30G 0 0)
.ends

* =============================================================================
* PA (Power Amplifier) — drives TX antenna
* =============================================================================
X_pa lo_p tx_out vdd_2p5 vss pa_classE

.subckt pa_classE IN OUT VDD VSS
    L_match in_int IN 200p
    C_match in_int VSS 100f
    Q1 coll in_int emit_pa VSS npn13G2l m=4
    R_bias VDD in_int 5k
    L_load VDD coll 150p
    C_res coll VSS 50f
    C_out coll OUT 150f
    C_shunt OUT VSS 30f
    R_emit emit_pa VSS 1
.ends

* =============================================================================
* TX/RX CHANNEL (FMCW radar round-trip delay)
* =============================================================================
* Simulate target at 50m: delay = 2*50m/c = 333ps
* Attenuation: free-space path loss at 30 GHz for 50m ≈ -100 dB
* For simulation, we use a simplified delay + attenuation

* TX signal → delay → attenuated → RX
* Using transmission line for delay + resistor for attenuation
T_channel tx_out 0 rx_in 0 Z0=50 TD=333p
R_atten rx_in vss 50

* Weak RX signal (simulating reflected signal)
V_rx rx_in vss dc 0 sin(0 0.001 30G 0 0)

* =============================================================================
* LNA (Low Noise Amplifier)
* =============================================================================
X_lna rx_in lna_out vdd_1p2 vss lna_core

.subckt lna_core in out vdd vss
    X1 c b e vss npn13G2l m=1
    R_bias vdd b 20k
    C_in in b 200f
    L_e e vss 50p
    L_load vdd c 150p
    C_out c out 150f
.ends

* =============================================================================
* MIXER (Gilbert Cell) — downconvert RF to IF
* =============================================================================
* LO from VCO, RF from LNA, IF output
X_mix lna_out vss lo_p lo_n if_p if_n vdd_1p2 vss mixer_gilbert

.subckt mixer_gilbert RF_p RF_n LO_p LO_n IF_p IF_n VDD VSS
    Q1 c1 RF_p e_tail VSS npn13G2l m=1
    Q2 c2 RF_n e_tail VSS npn13G2l m=1
    Q3 c3 LO_p c1 VSS npn13G2l m=1
    Q4 c4 LO_p c2 VSS npn13G2l m=1
    Q5 c3 LO_n c2 VSS npn13G2l m=1
    Q6 c4 LO_n c1 VSS npn13G2l m=1
    R_load_p VDD IF_p 200
    R_load_n VDD IF_n 200
    V_if_p IF_p c3 0
    V_if_n IF_n c4 0
    I_tail e_tail VSS 2m
.ends

* =============================================================================
* IF STAGE + ADC
* =============================================================================
* IF frequency = 30 GHz - 30 GHz = DC (for stationary target)
* For moving target: IF = Doppler shift (Hz to kHz range)
* For range: IF = beat frequency (MHz range)

* IF amplifier
R_if_load if_p vss 200

* Connect to ADC behavioral model
X_adc if_p clk adc_out_0 adc_out_1 adc_out_2 adc_out_3 adc_out_4 adc_out_5 adc_out_6 adc_out_7 vref_p vref_n vdd_1p2 vss adc_sar_behavioral

.subckt adc_sar_behavioral in clk out_0 out_1 out_2 out_3 out_4 out_5 out_6 out_7 vref_p vref_n vdd vss
    E_quantize out_analog vss vol='floor((v(in))/(v(vref_p)) * 255) / 255 * (v(vref_p))'
.ends

* Clock for ADC (100 MHz sampling)
V_clk clk 0 pulse(0 1.2 0 0.1n 0.1n 4.9n 10n)

* ADC reference voltages
V_ref_p vref_p 0 1.0
V_ref_n vref_n 0 0

* =============================================================================
* SIMULATION
* =============================================================================
.control
    * Operating point
    op
    print v(tx_out) v(lna_out) v(if_p)
    
    * Transient to observe mixing
    tran 0.1n 100n
    
    * FFT of IF output to verify beat frequency
    fft v(if_p)
    
    * Measure IF frequency
    meas tran IF_max MAX v(if_p)
    meas tran IF_min MIN v(if_p)
    print IF_max IF_min
    
    quit
.endc
.end
